US07511145B2
Step 1: 3-Cyclohexylamino-4-nitro-benzoic acid (Compound 571a)
A mixture of 3-fluoro-4-nitrobenzoic acid (0.35 g, 1.891 mmol) and cyclohexylamine (2.17 mL, 18.91 mmol) in NMP (10 mL) was stirred under Ar at 85° C. for 6 h. The solvent was evaporated under high vacuum. The residue was purified by chromatography using CH3Cl-MeOH (10:1) as the eluent to give the title intermediate in a quantitative yield. MS: 263.11 (M−H+).

reactant | 3-fluoro-4-nitrobenzoic acid | 1.891 mmol, 0.35 g | FC=1C=C(C(=O)O)C=CC1[N+](=O)[O-] | C7H4FNO4
reactant | cyclohexylamine | 18.91 mmol, 2.17 mL | C1(CCCCC1)N | C6H13N
solvent | NMP | 10 mL | CN1CCCC1=O | C5H9NO
product | 3-Cyclohexylamino-4-nitro-benzoic acid | quantitative yield | C1(CCCCC1)NC=1C=C(C(=O)O)C=CC1[N+](=O)[O-] | C13H16N2O4
